US05641430
Preparation of trans-4-(trans-4-(4-chloro-3,5-difluorophenyloxymethyl)-1-silacyclohexyl)-1-(3-methylbutyl)cyclohexane
The general procedure of Example 36 was repeated using 4-(3-methylbutyl)cyclohexyl bromide and 4-(4-chloro-3,5-difluorophenyloxyrnethyl)-1-chloro-1-silacyclohexane, thereby obtaining the intended product.

reactant | 4-(3-methylbutyl)cyclohexyl bromide | CC(CCC1CCC(CC1)Br)C | C11H21Br
reactant | 4-(4-chloro-3,5-difluorophenyloxyrnethyl)-1-chloro-1-silacyclohexane | ClC1=C(C=C(C=C1F)OCC1CC[SiH](CC1)Cl)F | C12H14Cl2F2OSi
product | trans-4-(trans-4-(4-chloro-3,5-difluorophenyloxymethyl)-1-silacyclohexyl)-1-(3-methylbutyl)cyclohexane | ClC1=C(C=C(C=C1F)OC[C@@H]1CC[Si@H](CC1)[C@@H]1CC[C@H](CC1)CCC(C)C)F | C23H35ClF2OSi
